US07291619B2
1-Boc-4-(2-methanesulfonylamino-phenyl)-piperazine
To a solution of 1-boc-4-(2-aminophenyl)-piperazine (5.55 g, 20 mmol) and triethyamine (5.6 mL, 40 mmol) in 200 mL of CH2Cl2 was added methanesulfonyl chloride (1.55 mL, 20 mmol). After stirring for about 4 hours, the solution was concentrated, and the residue dissolved in 200 mL of EtOAc. The solution was washed with 1 M HCl (2×), water and brine, and then dried (Na2SO4), filtered and concentrated to afford about 6.68 g (18.8 mmol, 94%) of the title compound as a brown solid. LRMS: 356.1 (M+1)

reactant | 1-boc-4-(2-aminophenyl)-piperazine | 20 mmol, 5.55 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)N | C15H23N3O2
reactant | triethyamine | 40 mmol, 5.6 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 20 mmol, 1.55 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-Boc-4-(2-methanesulfonylamino-phenyl)-piperazine | 18.8 mmol, about 6.68 g, 94% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)C | C16H25N3O4S
